US03976634
An ice-cold suspension of 1.5 grams (0.040 mole) of lithium aluminum hydride in 35 ml of dry tetrahydrofuran is treated dropwise over a period of about 30 minutes with a solution of 10.4 grams (0.039 mole) of 3-benzylmethylamino-2-methylindan-1-one in 80 ml of tetrahydrofuran. The mixture is stirred at 0° for 4 hours and then quenched by the addition of ethylacetate, 2N sodium hydroxide and water. The solids are filtered, and the filtrate is dried over magnesium sulfate, filtered and evaporated to yield 3-benzylmethylamino-2-methylindan-1-ol as an oil.

reactant | lithium aluminum hydride | 0.040 mole, 1.5 grams | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 3-benzylmethylamino-2-methylindan-1-one | 0.039 mole, 10.4 grams | C(C1=CC=CC=C1)CNC1C(C(C2=CC=CC=C12)=O)C | C18H19NO
solvent | tetrahydrofuran | 35 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
product | 3-benzylmethylamino-2-methylindan-1-ol | C(C1=CC=CC=C1)CNC1C(C(C2=CC=CC=C12)O)C | C18H21NO
